US06472397B1
To a solution of 1 g of 4-oxopiperidine hydrochloride monohydrate in 0.7 ml of water was added 2.2 ml of diethyl ether, and the mixture was stirred at 0° C. Chloromethyl chloroformate (0.3 ml) was added dropwise, and the mixture was stirred at 0° C. for 5 minutes. Next, 0.8 ml of a 17N aqueous sodium hydroxide solution and 0.3 ml of chloromethyl chloroformate were divided into three portions and alternately added dropwise, and the resulting mixture was stirred at 0° C. for additional 20 minutes. The reaction mixture was diluted with 5 ml of a saturated aqueous saline, and extracted three times with 5 ml of diethyl ether. The organic layer thus obtained was dried over anhydrous sodium sulfate, and the solvent was removed by distillation under reduced pressure to give 1.7 g (100%) of 1-chloromethoxycarbonyl-4-oxopiperidine.

reactant | 4-oxopiperidine hydrochloride monohydrate | 1 g | O.Cl.O=C1CCNCC1
reactant | diethyl ether | 2.2 ml | C(C)OCC | C4H10O
reactant | Chloromethyl chloroformate | 0.3 ml | ClC(=O)OCCl | C2H2Cl2O2
reactant | sodium hydroxide | 17N | [OH-].[Na+]
reactant | chloromethyl chloroformate | 0.3 ml | ClC(=O)OCCl | C2H2Cl2O2
solvent | water | 0.7 ml | O | H2O
product | 1-chloromethoxycarbonyl-4-oxopiperidine | 1.7 g, 100% | ClCOC(=O)N1CCC(CC1)=O | C7H10ClNO3
